US05866564
(2S,4S)-4-Mercapto-2{(3S)-3-[N-methyl-N-(4-nitrobenzyloxycarbonyl)amino]pyrrolidin-1-ylcarbonyl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 18, but using 1.21 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 343 mg of pivaloyl chloride and 1.27 g of (3S)-3-[N-methyl-N-(4-nitrobenzyloxycarbonyl)amino]pyrrolidine trifluoroacetate, 1.21 g of the title compound were obtained as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 1.21 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | pivaloyl chloride | 343 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (3S)-3-[N-methyl-N-(4-nitrobenzyloxycarbonyl)amino]pyrrolidine trifluoroacetate | 1.27 g | FC(C(=O)O)(F)F.CN(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1CNCC1
product | (2S,4S)-4-Mercapto-2{(3S)-3-[N-methyl-N-(4-nitrobenzyloxycarbonyl)amino]pyrrolidin-1-ylcarbonyl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.21 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C[C@H](CC1)N(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C26H29N5O9S
